US07307075B2
4-[3-(4-Butylpiperidin-1-yl)propyl]-5-methyl-4H-benzo[1,4]oxazin-3-one (81MF941x)
4-(3-Chloropropyl)-5-methyl-4H-benzo[1,4]oxazin-3-one (81MF941b) (1.08 g, 4.48 mmol), K2CO3 (1.24 g, 8.95 mmol), NaI (1.34 g, 8.95 mmol) and 4-butylpiperidine (0.66 g, 4.70 mmol) were mixed according to GP11. CC (SiO2; Heptane/EtOAc 10:1-4) gave the title compound (81MF941x) (0.814 g, 53%). 1H NMR (CDCl3) δ 6.97-6.83 (m, 3H), 4.41 (s, 2H), 4.07 (t, J=7.2 Hz, 2 H), 2.67 (d, J=10.8 Hz, 2H), 2.39 (s, 3H), 2.18 (t, J=7.2 Hz, 2 H), 1.76 (t, J=10.8 Hz, 2H), 1.69-1.62 (m, 2H), 1.58 (d, J=10.0 Hz, 2 H), 1.30-1.06 (m, 9H), 0.87 (t, J=6.8 Hz, 3H); 13C NMR (CDCl3) δ 168.3, 150.0, 129.2, 128.9, 126.8, 124.8, 114.8, 69.5, 55.7, 54.2, 42.6, 36.4, 35.9, 32.6, 29.2, 25.3, 23.0, 20.9, 14.2.

reactant | 4-(3-Chloropropyl)-5-methyl-4H-benzo[1,4]oxazin-3-one | 4.48 mmol, 1.08 g | ClCCCN1C(COC2=C1C(=CC=C2)C)=O | C12H14ClNO2
reactant | K2CO3 | 8.95 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 8.95 mmol, 1.34 g | [Na+].[I-]
reactant | 4-butylpiperidine | 4.70 mmol, 0.66 g | C(CCC)C1CCNCC1 | C9H19N
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-[3-(4-Butylpiperidin-1-yl)propyl]-5-methyl-4H-benzo[1,4]oxazin-3-one | 0.814 g, 53% | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C(=CC=C2)C)=O | C21H32N2O2
